US08217069B2
2-[5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-(6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one-9-yl)phenoxy]-N-methylacetamide
To a solution of 9-[4-carboxymethoxy-2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one (80 mg) in tetrahydrofuran (2 mL) was added 1,1′-carbonyldiimidazole (48 mg), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added methylamine (40% methanol solution, 1 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 2 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=6/1) to give the title compound (63 mg).

reactant | 9-[4-carboxymethoxy-2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)phenyl]-6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one | 80 mg | C(=O)(O)COC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C)Cl | C23H19ClF2N4O7
reactant | 1,1′-carbonyldiimidazole | 48 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 1 mL | CN | CH5N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[5-Chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-(6-methoxy-2-methyl-7,9-dihydro-8H-purin-8-one-9-yl)phenoxy]-N-methylacetamide | 63 mg | ClC=1C(=CC(=C(OCC(=O)NC)C1)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C | C24H22ClF2N5O6
